US07795274B2
Step 2: Synthesis of 3-[1-(4-Chloro-benzyl)-5-(pyridin-2-ylmethoxy)-1H-pyrrolo[32-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester
3-[1-(4-Chlorobenzyl)-5-hydroxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester (0.100 g, 0.26 mmol) was dissolved in acetone (2 mL), and 2-chloromethyl-pyridine (0.064 g, 0.39 mmol), tetrabutylammonium iodide (0.095 g, 0.26 mmol) and K2CO3 (0.107 g, 0.77 mol) were added. The mixture was stirred at 65° C. overnight, and two products were observed by TLC analysis. The reaction was cooled to room temperature, diluted with water, and extracted with EtOAc three times. The combined organic layers were washed with water, brine, dried over MgSO4, filtered, and concentrated to give a 1:2 mixture of the O-alkylated and N-alkylated products. The crude material was purified by preparative TLC to obtain the O-alkylated title compound.

reactant | 3-[1-(4-Chlorobenzyl)-5-hydroxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester | 0.26 mmol, 0.100 g | C(C)OC(C(CC1=CC2=NC(=CC=C2N1CC1=CC=C(C=C1)Cl)O)(C)C)=O | C21H23ClN2O3
reactant | 2-chloromethyl-pyridine | 0.39 mmol, 0.064 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | K2CO3 | 0.77 mol, 0.107 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | 0.26 mmol, 0.095 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 3-[1-(4-Chloro-benzyl)-5-(pyridin-2-ylmethoxy)-1H-pyrrolo[32-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC2=NC(=CC=C2N1CC1=CC=C(C=C1)Cl)OCC1=NC=CC=C1)(C)C)=O | C27H28ClN3O3
